US04287195
A mixture of 3.1 parts of 1-(1H-imidazol-1-yl)-4-(4-methoxyphenyl)piperazine and 150 parts of a hydrobromic acid solution 48% in glacial acetic acid is stirred and refluxed overnight. The reaction mixture is evaporated and the residue is dissolved in water. Upon the addition of an excess of sodium hydrogen carbonate, the product is crystallized. It is filtered off and crystallized again from a mixture of N,N-dimethylformamide and water, yielding 2.8 parts (95%) of 4-[4-(1H-imidazol-1-yl)-1-piperazinyl]phenol; mp. 282.4° C.

reactant | 1-(1H-imidazol-1-yl)-4-(4-methoxyphenyl)piperazine | N1(C=NC=C1)N1CCN(CC1)C1=CC=C(C=C1)OC | C14H18N4O
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[4-(1H-imidazol-1-yl)-1-piperazinyl]phenol | 95% | N1(C=NC=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C13H16N4O
